US08710043B2
A 1-L round-bottomed flask was charged with 3,4-dichlorobenzaldehyde (25.0 g, 143 mmol), 2-methylpropane-2-sulfinamide (17.3 g, 143 mmol), and 200 mL of THF. To this was added Ti(OEt)4 (65.2 g, 286 mmol) over 5 min. The reaction was stirred at rt for 5 h and then poured onto brine. The resulting white precipitate was removed by filtration, and the filter cake was washed with EtOAc. The filtrate was transferred to a separatory funnel and the layers were separated. The organic layers were combined and dried (MgSO4), filtered, and concentrated to give (E)-N-(3,4-dichlorobenzylidene)-2-methylpropane-2-sulfinamide as a white solid.

reactant | 3,4-dichlorobenzaldehyde | 143 mmol, 25.0 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2-methylpropane-2-sulfinamide | 143 mmol, 17.3 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (E)-N-(3,4-dichlorobenzylidene)-2-methylpropane-2-sulfinamide | ClC=1C=C(\C=N\S(=O)C(C)(C)C)C=CC1Cl | C11H13Cl2NOS
